US08071778B2
2-(bromomethyl)-6-chloro-4-(trifluoromethyl)pyridine.
(2-chloro-6-methyl-4-(trifluoromethyl)pyridine (10.0 g, 51 mmol), N-bromosuccinimide (10.9 g, 61 mmol), and 2,2′-azobis(2-methylpropionitrile) (164 mg, 1 mmol) were combined in carbon tetrachloride (200 mL) and heated to reflux. After 16 h, the reaction mixture was cooled to 0° C. and filtered. The filtrate was concentrated and purified by column chromatography on silica gel (100% hexanes) to produce 9.1 g (70%) as a light yellow oil. 1H-NMR (CDCl3, 400 MHz) δ 7.59 (s, 1H), 7.47 (s, 1H), 4.52 (s, 2H).

reactant | 2-chloro-6-methyl-4-(trifluoromethyl)pyridine | 51 mmol, 10.0 g | ClC1=NC(=CC(=C1)C(F)(F)F)C | C7H5ClF3N
reactant | N-bromosuccinimide | 61 mmol, 10.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 1 mmol, 164 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-6-chloro-4-(trifluoromethyl)pyridine | BrCC1=NC(=CC(=C1)C(F)(F)F)Cl | C7H4BrClF3N
